### PR TITLE
[Merged by Bors] - feat(InformationTheory/Coding): add Kraft inequality for prefix-free codes

### PR DESCRIPTION
**Pull request by elazarg**
This PR defines prefix-free codes as arbitrary sets of words and proves that a prefix-free code not containing the empty word is uniquely decodable. In particular, every nontrivial prefix-free code is uniquely decodable. It is a direct continuation of #34108, which introduced uniquely decodable codes and the Kraft–McMillan inequality.

For a finite nonempty alphabet, it derives Kraft's inequality for finite prefix-free codes from the Kraft–McMillan inequality. It then extends the result to arbitrary sets of codewords by bounding every finite partial sum, proving summability and the corresponding bound on the infinite Kraft sum.

The existing uniquely decodable code API is also renamed to follow the `Is...` naming convention, and the Kraft–McMillan theorem is renamed to describe its statement.

Moves:
- InformationTheory.UniquelyDecodable -> InformationTheory.IsUniquelyDecodable
- InformationTheory.UniquelyDecodable.epsilon_not_mem -> InformationTheory.IsUniquelyDecodable.epsilon_not_mem
- InformationTheory.UniquelyDecodable.flatten_injective -> InformationTheory.IsUniquelyDecodable.flatten_injective
- InformationTheory.kraft_mcmillan_inequality -> InformationTheory.IsUniquelyDecodable.finsetSum_one_div_card_pow_length_le_one
---

This is another part of https://github.com/elazarg/kraft. Comments about next items are welcome.

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/InformationTheory/Coding/Kraft.lean [hunk 1]
```diff
@@ -0,0 +1,80 @@
...
+
+@[expose] public section
+
+namespace InformationTheory
+
+variable {α : Type*} [Fintype α] [Nonempty α]
+
+/-- The Kraft weight of a word over the alphabet `α` is `(1 / |α|) ^ |w|`. -/
+noncomputable def kraftWeight (w : List α) : ℝ :=
+  (1 / (Fintype.card α : ℝ)) ^ w.length
```
Comment (wwylele) [inline Mathlib/InformationTheory/Coding/Kraft.lean]: Is this def necessary? Every new def needs to come with its own API
Is the name standard? Googling "Kraft weight" gives me no related result. 

The existing [InformationTheory.kraft_mcmillan_inequality](https://leanprover-community.github.io/mathlib4_docs/Mathlib/InformationTheory/Coding/KraftMcMillan.html#InformationTheory.kraft_mcmillan_inequality) simply inlines the same expression in the statement and I find it pretty enough.

File: Mathlib/InformationTheory/Coding/PrefixFree.lean [hunk 2]
```diff
@@ -0,0 +1,99 @@
...
+    S = {[]} := by
+  rw [Set.eq_singleton_iff_unique_mem]
+  exact ⟨hε, fun _ hx ↦ (hS _ hε _ hx List.nil_prefix).symm⟩
+
+/-- Any subset of a prefix-free set is prefix-free. -/
+lemma PrefixFree.mono {S T : Set (List α)} (hS : PrefixFree S) (hTS : T ⊆ S) : PrefixFree T :=
+  fun _ hx _ hy ↦ hS _ (hTS hx) _ (hTS hy)
+
+/-- A prefix-free code not containing the empty word is uniquely decodable. -/
+theorem PrefixFree.uniquely_decodable {S : Set (List α)} (hS : PrefixFree S) (hε : [] ∉ S) :
```
Comment (wwylele) [inline Mathlib/InformationTheory/Coding/PrefixFree.lean]:
```suggestion
theorem PrefixFree.uniquelyDecodable {S : Set (List α)} (hS : PrefixFree S) (hε : [] ∉ S) :
```

File: Mathlib/InformationTheory/Coding/PrefixFree.lean [hunk 3]
```diff
@@ -0,0 +1,99 @@
...
+            · exact (hS _ (hL₂ _ (.head ..)) _ (hL₁ _ (.head ..)) ⟨t, hw₂.symm⟩).symm
+          subst w₂
+          simp only [List.cons.injEq, true_and]
+          apply ih L₂
+          · exact fun _ hw ↦ hL₁ _ (.tail _ hw)
+          · exact fun _ hw ↦ hL₂ _ (.tail _ hw)
+          · exact List.append_cancel_left hflatten
+
+/-- A nontrivial finite prefix-free code is uniquely decodable. -/
+theorem PrefixFree.uniquely_decodable_of_nontrivial {S : Finset (List α)}
```
Comment (wwylele) [inline Mathlib/InformationTheory/Coding/PrefixFree.lean]:
```suggestion
theorem PrefixFree.uniquelyDecodable_of_nontrivial {S : Finset (List α)}
```

File: Mathlib/InformationTheory/Coding/Kraft.lean (hunk 1 above)
Comment (elazarg) [reply Mathlib/InformationTheory/Coding/Kraft.lean]: Inlined.

File: Mathlib/InformationTheory/Coding/PrefixFree.lean [hunk 4]
```diff
@@ -0,0 +1,99 @@
...
+
+variable {α : Type*}
+
+/-- A set of words is prefix-free if two words in the set cannot be distinct when one is a prefix
+of the other. -/
+def PrefixFree (S : Set (List α)) : Prop :=
+  ∀ x ∈ S, ∀ y ∈ S, x <+: y → x = y
+
+/-- A prefix-free set containing the empty word is the singleton containing the empty word. -/
+lemma PrefixFree.epsilon_singleton {S : Set (List α)} (hS : PrefixFree S) (hε : [] ∈ S) :
```
Comment (wwylele) [inline Mathlib/InformationTheory/Coding/PrefixFree.lean]: I am not familiar with this field of math, so perhaps this is a standard name that I am not aware of. Following mathlib convention, this name can be

```suggestion
lemma PrefixFree.eq_singleton_empty_of_empty_mem {S : Set (List α)} (hS : PrefixFree S) (hε : [] ∈ S) :
```

File: Mathlib/InformationTheory/Coding/PrefixFree.lean [hunk 5]
```diff
@@ -0,0 +1,99 @@
...
+  induction L₁ generalizing L₂ with
+  | nil =>
+      cases L₂ with
+      | nil => rfl
+      | cons w L =>
+          exfalso
+          have hw : w = [] := (List.append_eq_nil_iff.mp <| by
+            simpa only [List.flatten_nil, List.flatten_cons] using hflatten.symm).1
+          subst w
+          exact hε (hL₂ _ (.head ..))
```
Comment (wwylele) [inline Mathlib/InformationTheory/Coding/PrefixFree.lean]:
```suggestion
          simp only [List.flatten_nil, List.flatten_cons, List.nil_eq, List.append_eq_nil_iff,
            List.flatten_eq_nil_iff] at hflatten
          grind
```

File: Mathlib/InformationTheory/Coding/PrefixFree.lean [hunk 6]
```diff
@@ -0,0 +1,99 @@
...
+  | cons w₁ L₁ ih =>
+      cases L₂ with
+      | nil =>
+          exfalso
+          have hw : w₁ = [] := (List.append_eq_nil_iff.mp <| by
+            simpa only [List.flatten_nil, List.flatten_cons] using hflatten).1
+          subst w₁
+          exact hε (hL₁ _ (.head ..))
```
Comment (wwylele) [inline Mathlib/InformationTheory/Coding/PrefixFree.lean]:
```suggestion
          simp only [List.flatten_cons, List.flatten_nil, List.append_eq_nil_iff,
            List.flatten_eq_nil_iff] at hflatten
          grind
```

File: Mathlib/InformationTheory/Coding/PrefixFree.lean [hunk 7]
```diff
@@ -0,0 +1,99 @@
...
+            rcases List.append_eq_append_iff.mp hflatten with
+              ⟨t, hw₁, -⟩ | ⟨t, hw₂, -⟩
+            · exact hS _ (hL₁ _ (.head ..)) _ (hL₂ _ (.head ..)) ⟨t, hw₁.symm⟩
+            · exact (hS _ (hL₂ _ (.head ..)) _ (hL₁ _ (.head ..)) ⟨t, hw₂.symm⟩).symm
+          subst w₂
+          simp only [List.cons.injEq, true_and]
+          apply ih L₂
+          · exact fun _ hw ↦ hL₁ _ (.tail _ hw)
+          · exact fun _ hw ↦ hL₂ _ (.tail _ hw)
+          · exact List.append_cancel_left hflatten
```
Comment (wwylele) [inline Mathlib/InformationTheory/Coding/PrefixFree.lean]: Indentation in this proof is probably not right. I think we always indent by 2 spaces for `|... =>`. Here there are 4.

File: Mathlib/InformationTheory/Coding/Kraft.lean [hunk 8]
```diff
@@ -0,0 +1,71 @@
...
+  · exact kraft_mcmillan_inequality (hS.uniquelyDecodable hε)
+
+private lemma sum_kraft_le_one {S : Set (List α)} (hS : PrefixFree S) (F : Finset S) :
+    ∑ w ∈ F, (1 / (Fintype.card α : ℝ)) ^ (w : List α).length ≤ 1 := by
+  classical
+  let T : Finset (List α) := F.image Subtype.val
+  have hTS : (T : Set (List α)) ⊆ S := by
+    intro w hw
+    obtain ⟨w, -, rfl⟩ := Finset.mem_image.mp hw
+    exact w.2
```
Comment (wwylele) [inline Mathlib/InformationTheory/Coding/Kraft.lean]:
```suggestion
  have hTS : (T : Set (List α)) ⊆ S := by grind
```

**Review by wwylele — COMMENTED** [review]
Mostly looks good to me

File: Mathlib/InformationTheory/Coding/Kraft.lean (hunk 8 above)
Comment (elazarg) [reply Mathlib/InformationTheory/Coding/Kraft.lean]: Accepted, also added grind elsewhere.

File: Mathlib/InformationTheory/Coding/PrefixFree.lean (hunk 4 above)
Comment (elazarg) [reply Mathlib/InformationTheory/Coding/PrefixFree.lean]: Accepted.

File: Mathlib/InformationTheory/Coding/PrefixFree.lean [hunk 9]
```diff
@@ -0,0 +1,96 @@
...
+      simp only [List.cons.injEq, true_and]
+      apply ih L₂
+      · grind
+      · grind
+      · exact List.append_cancel_left hflatten
+
+/-- A nontrivial finite prefix-free code is uniquely decodable. -/
+theorem PrefixFree.uniquelyDecodable_of_nontrivial {S : Finset (List α)}
+    (hS : PrefixFree (S : Set (List α))) (hS' : S.Nontrivial) :
+    UniquelyDecodable (S : Set (List α)) := by
```
Comment (wwylele) [inline Mathlib/InformationTheory/Coding/PrefixFree.lean]: Does `S` need to be a `Finset`? I think it should work for general `S : Set (List α)`

Comment (elazarg) [reply Mathlib/InformationTheory/Coding/PrefixFree.lean]: Applied.

**Review by wwylele — APPROVED** [review]

File: Mathlib/InformationTheory/Coding/PrefixFree.lean [hunk 10]
```diff
@@ -0,0 +1,92 @@
...
+
+@[expose] public section
+
+namespace InformationTheory
+
+variable {α : Type*}
+
+/-- A set of words is prefix-free if two words in the set cannot be distinct when one is a prefix
+of the other. -/
+def PrefixFree (S : Set (List α)) : Prop :=
```
Comment (EtienneC30) [inline Mathlib/InformationTheory/Coding/PrefixFree.lean]: As this is a predicate it should start with `Is`, see the [naming convention(https://leanprover-community.github.io/contribute/naming.html#prop-valued-classes).
```suggestion
def IsPrefixFree (S : Set (List α)) : Prop :=
```

File: Mathlib/InformationTheory/Coding/PrefixFree.lean [hunk 11]
```diff
@@ -0,0 +1,92 @@
...
+  word is uniquely decodable.
+* `InformationTheory.PrefixFree.uniquelyDecodable_of_nontrivial`: a nontrivial prefix-free code is
+  uniquely decodable.
+-/
+
+@[expose] public section
+
+namespace InformationTheory
+
+variable {α : Type*}
```
Comment (EtienneC30) [inline Mathlib/InformationTheory/Coding/PrefixFree.lean]: I'd suggest adding `S` and `T` as local variables so as not to repeat them in all statements:
```suggestion
variable {α : Type*} {S T : Set (List α)}
```

File: Mathlib/InformationTheory/Coding/PrefixFree.lean [hunk 12]
```diff
@@ -0,0 +1,92 @@
...
+
+/-- A prefix-free set containing the empty word is the singleton containing the empty word. -/
+lemma PrefixFree.eq_singleton_empty_of_empty_mem {S : Set (List α)} (hS : PrefixFree S)
+    (hε : [] ∈ S) :
+    S = {[]} := by
+  rw [Set.eq_singleton_iff_unique_mem]
+  exact ⟨hε, fun _ hx ↦ (hS _ hε _ hx List.nil_prefix).symm⟩
+
+/-- Any subset of a prefix-free set is prefix-free. -/
+lemma PrefixFree.mono {S T : Set (List α)} (hS : PrefixFree S) (hTS : T ⊆ S) : PrefixFree T :=
```
Comment (EtienneC30) [inline Mathlib/InformationTheory/Coding/PrefixFree.lean]: I'd say this is rather an antitone property:
```suggestion
lemma PrefixFree.anti {S T : Set (List α)} (hS : PrefixFree S) (hTS : T ⊆ S) : PrefixFree T :=
```

File: Mathlib/InformationTheory/Coding/PrefixFree.lean [hunk 13]
```diff
@@ -0,0 +1,92 @@
...
+  fun _ hx _ hy ↦ hS _ (hTS hx) _ (hTS hy)
+
+/-- A prefix-free code not containing the empty word is uniquely decodable. -/
+theorem PrefixFree.uniquelyDecodable {S : Set (List α)} (hS : PrefixFree S) (hε : [] ∉ S) :
+    UniquelyDecodable S := by
```
Comment (EtienneC30) [inline Mathlib/InformationTheory/Coding/PrefixFree.lean]: I see that `UniquelyDecodable` does not follow the naming convention for predicates either. I suggest you make the change in this PR since it is only mentioned in 4 declarations in current mathlib.

File: Mathlib/InformationTheory/Coding/PrefixFree.lean [hunk 14]
```diff
@@ -0,0 +1,92 @@
...
+  intro L₁ L₂ hL₁ hL₂ hflatten
+  induction L₁ generalizing L₂ with
+  | nil =>
+    cases L₂ with
+    | nil => rfl
+    | cons w L =>
+      simp only [List.flatten_nil, List.flatten_cons, List.nil_eq, List.append_eq_nil_iff,
+        List.flatten_eq_nil_iff] at hflatten
+      grind
```
Comment (EtienneC30) [inline Mathlib/InformationTheory/Coding/PrefixFree.lean]: As `grind` is a flexible tactic there is no need to use `simp only` before it:
```suggestion
      simp at hflatten
      grind
```

File: Mathlib/InformationTheory/Coding/PrefixFree.lean [hunk 15]
```diff
@@ -0,0 +1,92 @@
...
+  | cons w₁ L₁ ih =>
+    cases L₂ with
+    | nil =>
+      simp only [List.flatten_cons, List.flatten_nil, List.append_eq_nil_iff,
+        List.flatten_eq_nil_iff] at hflatten
```
Comment (EtienneC30) [inline Mathlib/InformationTheory/Coding/PrefixFree.lean]:
```suggestion
      simp at hflatten
```

File: Mathlib/InformationTheory/Coding/PrefixFree.lean [hunk 16]
```diff
@@ -0,0 +1,92 @@
...
+      grind
+    | cons w₂ L₂ =>
+      simp only [List.flatten_cons] at hflatten
+      have hw : w₁ = w₂ := by
+        rcases List.append_eq_append_iff.mp hflatten with
+          ⟨t, hw₁, -⟩ | ⟨t, hw₂, -⟩
+        · exact hS _ (hL₁ _ (.head ..)) _ (hL₂ _ (.head ..)) ⟨t, hw₁.symm⟩
+        · exact (hS _ (hL₂ _ (.head ..)) _ (hL₁ _ (.head ..)) ⟨t, hw₂.symm⟩).symm
+      subst w₂
+      simp only [List.cons.injEq, true_and]
```
Comment (EtienneC30) [inline Mathlib/InformationTheory/Coding/PrefixFree.lean]:
```suggestion
      congr
```

File: Mathlib/InformationTheory/Coding/PrefixFree.lean [hunk 17]
```diff
@@ -0,0 +1,92 @@
...
+  be distinct when one is a prefix of the other.
+
+## Main results
+
+* `InformationTheory.PrefixFree.eq_singleton_empty_of_empty_mem`: a prefix-free code containing
+  the empty word is the singleton containing the empty word.
+* `InformationTheory.PrefixFree.uniquelyDecodable`: a prefix-free code not containing the empty
+  word is uniquely decodable.
+* `InformationTheory.PrefixFree.uniquelyDecodable_of_nontrivial`: a nontrivial prefix-free code is
+  uniquely decodable.
```
Comment (EtienneC30) [inline Mathlib/InformationTheory/Coding/PrefixFree.lean]: You don't need to write `InformationTheory` in the doc the linkifier will still work, and this makes the doc lighter.

Comment (EtienneC30) [inline Mathlib/InformationTheory/Coding/PrefixFree.lean]: Do you think it is worth mentioning those three results here? I'd say only the second is enough, but I don't know which one is most useful.

File: Mathlib/InformationTheory/Coding/Kraft.lean [hunk 18]
```diff
@@ -0,0 +1,68 @@
+/-
+Copyright (c) 2026 Elazar Gershuni. All rights reserved.
+Released under Apache 2.0 license as described in the file LICENSE.
+Authors: Elazar Gershuni
+-/
+module
+
+public import Mathlib.InformationTheory.Coding.PrefixFree
+public import Mathlib.Topology.Algebra.InfiniteSum.Real
+import Mathlib.InformationTheory.Coding.KraftMcMillan
```
Comment (EtienneC30) [inline Mathlib/InformationTheory/Coding/Kraft.lean:12]: This minimizes public imports (note that one should leave a blank line between public and non-public imports, see the [style guide](https://leanprover-community.github.io/contribute/style.html#header-and-imports)):
```suggestion
public import Mathlib.Topology.MetricSpace.Pseudo.Defs
public import Mathlib.InformationTheory.Coding.PrefixFree
public import Mathlib.Topology.Algebra.InfiniteSum.Defs

import Mathlib.InformationTheory.Coding.KraftMcMillan
import Mathlib.Topology.Algebra.InfiniteSum.Real
```

File: Mathlib/InformationTheory/Coding/Kraft.lean [hunk 19]
```diff
@@ -0,0 +1,68 @@
...
+  summable.
+* `InformationTheory.kraft_inequality_infinite`: the Kraft sum of an arbitrary prefix-free code
+  is at most one.
+
+## References
+
+* Cover and Thomas, *Elements of Information Theory*, Chapter 5.
+-/
+
+@[expose] public section
```
Comment (EtienneC30) [inline Mathlib/InformationTheory/Coding/Kraft.lean]: No need for `@[expose]` as there are no definitions in the file.
```suggestion
public section
```

File: Mathlib/InformationTheory/Coding/Kraft.lean [hunk 20]
```diff
@@ -0,0 +1,68 @@
...
+
+namespace InformationTheory
+
+variable {α : Type*} [Fintype α] [Nonempty α]
+
+/-- **Kraft's inequality.** The Kraft sum of a finite prefix-free code is at most one. -/
+theorem kraft_inequality {S : Finset (List α)} (hS : PrefixFree (S : Set (List α))) :
```
Comment (EtienneC30) [inline Mathlib/InformationTheory/Coding/Kraft.lean]: We prefer names that mirror the lean statement to make it easier to find them and/or guess their content. Here I would suggest:
```suggestion
theorem PrefixFree.finsetSum_one_div_card_pow_length_le_one {S : Finset (List α)} (hS : PrefixFree (S : Set (List α))) :
```
(I should add that in this regard `kraft_mcmillan_inequality` is not correctly named.)

File: Mathlib/InformationTheory/Coding/Kraft.lean [hunk 21]
```diff
@@ -0,0 +1,68 @@
...
+    ∑ w ∈ S, (1 / (Fintype.card α : ℝ)) ^ w.length ≤ 1 := by
+  by_cases hε : [] ∈ S
+  · have hS' : S = {[]} := by
+      exact_mod_cast hS.eq_singleton_empty_of_empty_mem hε
+    simp [hS']
+  · exact kraft_mcmillan_inequality (hS.uniquelyDecodable hε)
+
+private lemma sum_kraft_le_one {S : Set (List α)} (hS : PrefixFree S) (F : Finset S) :
```
Comment (EtienneC30) [inline Mathlib/InformationTheory/Coding/Kraft.lean]:
```suggestion
private lemma finsetSum_one_div_card_pow_length_of_subtype {S : Set (List α)} (hS : PrefixFree S) (F : Finset S) :
```

File: Mathlib/InformationTheory/Coding/Kraft.lean [hunk 22]
```diff
@@ -0,0 +1,68 @@
...
+  classical
+  let T : Finset (List α) := F.image Subtype.val
+  have hTS : (T : Set (List α)) ⊆ S := by grind
+  calc
+    ∑ w ∈ F, (1 / (Fintype.card α : ℝ)) ^ (w : List α).length =
+        ∑ w ∈ T, (1 / (Fintype.card α : ℝ)) ^ w.length := by simp [T]
+    _ ≤ 1 := kraft_inequality (hS.mono hTS)
+
+/-- The Kraft sum of an arbitrary prefix-free code is summable. -/
+theorem summable_kraft_sum {S : Set (List α)} (hS : PrefixFree S) :
```
Comment (EtienneC30) [inline Mathlib/InformationTheory/Coding/Kraft.lean]:
```suggestion
theorem summable_one_div_card_pow_length {S : Set (List α)} (hS : PrefixFree S) :
```

File: Mathlib/InformationTheory/Coding/Kraft.lean [hunk 23]
```diff
@@ -0,0 +1,68 @@
...
+    Summable (fun w : S ↦ (1 / (Fintype.card α : ℝ)) ^ (w : List α).length) :=
+  summable_of_sum_le (fun _ ↦ by positivity) (sum_kraft_le_one hS)
+
+/-- **Kraft's inequality for arbitrary codes.** The Kraft sum of an arbitrary prefix-free code is
+at most one. -/
+theorem kraft_inequality_infinite {S : Set (List α)} (hS : PrefixFree S) :
```
Comment (EtienneC30) [inline Mathlib/InformationTheory/Coding/Kraft.lean]:
```suggestion
theorem tsum_one_div_card_pow_length_le_one {S : Set (List α)} (hS : PrefixFree S) :
```

**Review by EtienneC30 — COMMENTED** [review]
Thanks! I made several remarks on naming mainly.

**Comment by elazarg** [comment]
Addressed review comments, plus three naming changes:
- .uniquelyDecodable -> .isUniquelyDecodable
- .uniquelyDecodable_of_nontrivial -> .isUniquelyDecodable_of_nontrivial
- concatFn_injective_of_uniquelyDecodable -> concatFn_injective_of_isUniquelyDecodable.

**Comment by EtienneC30** [comment]
If you are done you should remove the awaiting-author label by commenting `-awaiting-author`.

**Comment by elazarg** [comment]
-awaiting-author

File: Mathlib/InformationTheory/Coding/UniquelyDecodable.lean
Comment (EtienneC30) [inline Mathlib/InformationTheory/Coding/UniquelyDecodable.lean:1]: Thanks for the renaming! When the name of a declaration changes, instead of removing the old ones we keep it as a deprecated declaration in order to not break code downstream of mathlib. You can check the [corresponding section of the style guide](https://leanprover-community.github.io/contribute/style.html#deprecation). Here you should add deprecated _aliases_ (if you are using VSCode, start typing "deprecated" and it should suggest completion). I put an example in the review. You can see the declarations you removed (and which thus need a deprecation) in [this message](https://github.com/leanprover-community/mathlib4/pull/42584#issuecomment-5228429331) under "Declarations diff (Lean)".

File: Mathlib/InformationTheory/Coding/UniquelyDecodable.lean [hunk 24]
```diff
@@ -32,7 +32,7 @@ namespace InformationTheory
 variable {α : Type*}
 
 /-- A set of lists is uniquely decodable if distinct concatenations yield distinct strings. -/
-def UniquelyDecodable (S : Set (List α)) : Prop :=
+def IsUniquelyDecodable (S : Set (List α)) : Prop :=
   ∀ (L₁ L₂ : List (List α)),
     (∀ w ∈ L₁, w ∈ S) → (∀ w ∈ L₂, w ∈ S) →
     L₁.flatten = L₂.flatten → L₁ = L₂
```
Comment (EtienneC30) [inline Mathlib/InformationTheory/Coding/UniquelyDecodable.lean:38]:
```suggestion
def IsUniquelyDecodable (S : Set (List α)) : Prop :=
∀ (L₁ L₂ : List (List α)),
(∀ w ∈ L₁, w ∈ S) → (∀ w ∈ L₂, w ∈ S) →
L₁.flatten = L₂.flatten → L₁ = L₂

@[deprecated (since := "2026-08-16")] alias UniquelyDecodable := IsUniquelyDecodable
```

File: Mathlib/InformationTheory/Coding/Kraft.lean [hunk 25]
```diff
@@ -0,0 +1,74 @@
...
+theorem IsPrefixFree.finsetSum_one_div_card_pow_length_le_one
+    {S : Finset (List α)} (hS : IsPrefixFree (S : Set (List α))) :
+    ∑ w ∈ S, (1 / (Fintype.card α : ℝ)) ^ w.length ≤ 1 := by
+  by_cases hε : [] ∈ S
+  · have hS' : S = {[]} := by
+      exact_mod_cast hS.eq_singleton_empty_of_empty_mem hε
+    simp [hS']
+  · exact (hS.isUniquelyDecodable hε).finsetSum_one_div_card_pow_length_le_one
+
+private lemma finsetSum_one_div_card_pow_length_of_subtype
```
Comment (EtienneC30) [inline Mathlib/InformationTheory/Coding/Kraft.lean]:
```suggestion
private lemma IsPrefixFree.finsetSum_one_div_card_pow_length_of_subtype
```

File: Mathlib/InformationTheory/Coding/Kraft.lean [hunk 26]
```diff
@@ -0,0 +1,74 @@
...
+  have hTS : (T : Set (List α)) ⊆ S := by grind
+  calc
+    ∑ w ∈ F, (1 / (Fintype.card α : ℝ)) ^ (w : List α).length =
+        ∑ w ∈ T, (1 / (Fintype.card α : ℝ)) ^ w.length := by simp [T]
+    _ ≤ 1 := (hS.anti hTS).finsetSum_one_div_card_pow_length_le_one
+
+/-- The Kraft sum of an arbitrary prefix-free code is summable. -/
+theorem summable_one_div_card_pow_length {S : Set (List α)} (hS : IsPrefixFree S) :
+    Summable (fun w : S ↦ (1 / (Fintype.card α : ℝ)) ^ (w : List α).length) :=
+  summable_of_sum_le (fun _ ↦ by positivity) (finsetSum_one_div_card_pow_length_of_subtype hS)
```
Comment (EtienneC30) [inline Mathlib/InformationTheory/Coding/Kraft.lean]:
```suggestion
  summable_of_sum_le (fun _ ↦ by positivity) hS.finsetSum_one_div_card_pow_length_of_subtype
```

File: Mathlib/InformationTheory/Coding/Kraft.lean [hunk 27]
```diff
@@ -0,0 +1,74 @@
...
+  classical
+  let T : Finset (List α) := F.image Subtype.val
+  have hTS : (T : Set (List α)) ⊆ S := by grind
+  calc
+    ∑ w ∈ F, (1 / (Fintype.card α : ℝ)) ^ (w : List α).length =
+        ∑ w ∈ T, (1 / (Fintype.card α : ℝ)) ^ w.length := by simp [T]
+    _ ≤ 1 := (hS.anti hTS).finsetSum_one_div_card_pow_length_le_one
+
+/-- The Kraft sum of an arbitrary prefix-free code is summable. -/
+theorem summable_one_div_card_pow_length {S : Set (List α)} (hS : IsPrefixFree S) :
```
Comment (EtienneC30) [inline Mathlib/InformationTheory/Coding/Kraft.lean]:
```suggestion
theorem IsPrefixFree.summable_one_div_card_pow_length {S : Set (List α)} (hS : IsPrefixFree S) :
```

File: Mathlib/InformationTheory/Coding/Kraft.lean [hunk 28]
```diff
@@ -0,0 +1,74 @@
...
+    Summable (fun w : S ↦ (1 / (Fintype.card α : ℝ)) ^ (w : List α).length) :=
+  summable_of_sum_le (fun _ ↦ by positivity) (finsetSum_one_div_card_pow_length_of_subtype hS)
+
+/-- **Kraft's inequality for arbitrary codes.** The Kraft sum of an arbitrary prefix-free code is
+at most one. -/
+theorem tsum_one_div_card_pow_length_le_one {S : Set (List α)} (hS : IsPrefixFree S) :
+    ∑' w : S, (1 / (Fintype.card α : ℝ)) ^ (w : List α).length ≤ 1 :=
+  (summable_one_div_card_pow_length hS).tsum_le_of_sum_le
+    (finsetSum_one_div_card_pow_length_of_subtype hS)
```
Comment (EtienneC30) [inline Mathlib/InformationTheory/Coding/Kraft.lean]:
```suggestion
  hS.summable_one_div_card_pow_length.tsum_le_of_sum_le
    hS.finsetSum_one_div_card_pow_length_of_subtype
```

**Review by EtienneC30 — COMMENTED** [review]
Thanks!

File: Mathlib/InformationTheory/Coding/UniquelyDecodable.lean (hunk 24 above)
Comment (wwylele) [reply Mathlib/InformationTheory/Coding/UniquelyDecodable.lean:38]: I assume the indentation change is unintended?

Comment (elazarg) [reply Mathlib/InformationTheory/Coding/UniquelyDecodable.lean:38]: True

File: Mathlib/InformationTheory/Coding/UniquelyDecodable.lean
Comment (elazarg) [reply Mathlib/InformationTheory/Coding/UniquelyDecodable.lean:1]: Thanks. Done

**Comment by elazarg** [comment]
-awaiting-author

**Review by EtienneC30 — APPROVED** [review]
Thanks!
maintainer merge
